US04616013
In a manner similar to Description 13, 2-ethyl-3-(3-nitrophenyl)propenoic acid was reduced and acetylated to give 2-(3-acetamidobenzyl)butanoic acid, m.p. 131°-132° C. (from aqueous ethanol) which was cyclised and the product hydrolysed to afford 5-amino-2-ethylindan-1-one, m.p. 105.5°-108° C. (from acetonitrile). Acetylation of the latter afforded 5-acetamido-2-ethylindan-1-one, m.p. 154°-155° C. (from acetonitrile).

reactant | 2-ethyl-3-(3-nitrophenyl)propenoic acid | C(C)C(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C11H11NO4
reactant | ethanol | C(C)O | C2H6O
product | 2-(3-acetamidobenzyl)butanoic acid | C(C)(=O)NC=1C=C(CC(C(=O)O)CC)C=CC1 | C13H17NO3
